US04551460
A suspension of 0.60 g of 8-(1-methylethyl)-11-oxo-11H-pyrido[2,1-b]quinazoline-2-carboxylic acid, 0.63 g of 3-(3-pyridyl)propyl bromide hydrobromide and 0.62 g of potassium carbonate in 50 ml of dimethylformamide was stirred at a bath temperature of 70° C. for three hours. The mixture was diluted with dichloromethane and washed successively with water, 10% sodium hydroxide, and water and was dried over K2CO3. The residue obtained after evaporation afforded 0.40 g of 8-(1-methylethyl)-11-oxo-11H-pyrido[2,1-b]quinazoline-2-carboxylic acid 3-(3-pyridyl)propyl ester, mp 111°-112° C.

reactant | 8-(1-methylethyl)-11-oxo-11H-pyrido[2,1-b]quinazoline-2-carboxylic acid | 0.60 g | CC(C)C=1C=CC2=NC3=CC=C(C=C3C(N2C1)=O)C(=O)O | C16H14N2O3
reactant | 3-(3-pyridyl)propyl bromide hydrobromide | 0.63 g | Br.N1=CC(=CC=C1)CCCBr
reactant | potassium carbonate | 0.62 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 8-(1-methylethyl)-11-oxo-11H-pyrido[2,1-b]quinazoline-2-carboxylic acid 3-(3-pyridyl)propyl ester | 0.40 g | N1=CC(=CC=C1)CCCOC(=O)C=1C=C2C(N3C(=NC2=CC1)C=CC(=C3)C(C)C)=O | C24H23N3O3
